Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.64952207389
[H:1][C:2]([H:3])[C:4]1([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-0.09617322742
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[O:1],7.788146172439999
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.03103230926
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.33865990201
[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([O:8])([H:10])[H:11],0.681983839459
[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],0.0667138111889
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.45018541175
[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7].[H:8]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],-4.6717554980900005
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.43128076333
[H:1][C:2]#[C:3][C:7]([C:5](=[O:4])[H:6])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])=[C:7]1[C:8]([H:9])([H:10])[H:11],1.72450662284
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6],1.7352422492099997
[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.66396689077
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.93305012644
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8]>>[C:6][O:7][H:8].[H:1][C:2]#[C:3][O:4][C:5],5.2095770258
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])[H:10].[H:6],4.31586822297
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-4.06604993523
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12],1.58774059878
[C:1]=[C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]1[C:2]([H:3])=[C:4]1[C:9]([H:10])([H:11])[H:12].[C:5]([H:6])[O:7][H:8],2.7609664489
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.747591355389999
[C:1].[O:2]=[C:3][C:4]([H:5])=[C:6]=[O:7]>>[C:1][O:2][C:3][C:4]([H:5])=[C:6]=[O:7],-2.46758957629
[C:7]([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.1895141814
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],1.75760269366
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-8.041569028989999
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5],3.02790343427
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3],5.2306463738
[H:6].[O:1][C:2]([H:3])([H:4])[C:5]=[C:7]=[O:8]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8],-4.45114296149
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.13036169064
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.4904088413300003
